US05112848
To a 0° C. solution of furan (10.2 g, 0.15 mol) in 100 mL of THF was added 2.5 M n-butyllithium (60 mL, 0.15 mol). The solution was stirred 3 h and the suspension was then added to a solution of zinc chloride (20 g, 0.15 mol) in 100 mL of THF at room temperature and stirred 1 h. In another flask bromobenzene (10.5 mL, 0.10 mol) was added to a solution of tetrakis(triphenylphosphine)palladium(0) (0.57 g, catalytic) in 300 ml THF and to this mixture was added the furyl zinc solution via cannula. The mixture was heated at 50° C. and stirred for 24 h. The reaction was cooled and quenched with 10% aqueous HCl solution (100 mL). The aqueous layer was washed with ether (2×100 mL) and the combined organic extract was washed with saturated sodium bicarbonate solution (100 mL), brine (100 mL), dried over MgSO4, filtered and concentrated. Distillation at 10 torr (b.p. 94° C.) yielded 12.1 g (81%) of 2-phenylfuran.

reactant | furan | 0.15 mol, 10.2 g | O1C=CC=C1 | C4H4O
reactant | n-butyllithium | 0.15 mol, 2.5 M, 60 mL | C(CCC)[Li]
reactant | bromobenzene | 0.10 mol, 10.5 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | furyl zinc | O1C(=CC=C1)[Zn]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 0.15 mol, 20 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.57 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-phenylfuran | 12.1 g, 81% | C1(=CC=CC=C1)C=1OC=CC1 | C10H8O
